US07501430B2
19b: Preparation of 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}benzaldehyde oxime
To a mixture 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}benzaldehyde (0.81 g, 0.14 mmol) and hydroxylamine hydrochloride (0.0107 g, 0.154 mmoL) in methanol (2.0 mL) was added 0.2 mL of acetic acid. The mixture was heated at 50° C. for 2 hours. After cooled to room temperature, the mixture was diluted with dichloromethane (10 mL), washed with saturated aqueous sodium bicarbonate (5 mL×3), water (5 mL), dried over sodium sulfate and concentrated. Product was purified by flash chromatography on silica gel (methanol:dichloromethane:ethylacetate=0.5:7:2) to afford 0.051 g (61%) of the title compound as an off-white solid. M.p.=238-240° C. 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 11.14 (s, 1H), 8.70 (bs, 1H), 8.17 (s, 1H), 8.11 (d, J=5.6 Hz, 1H), 7.8 (s, 1H), 7.77-7.74 (m, 2H), 7.68-7.64 (m, 3H), 7.60-7.57 (m, 1H), 7.47 (t, J=7.6 Hz, 1H), 7.41 (d, J=4.4 Hz, 1H), 7.14 (d, J=7.6 Hz, 1H), 6.40 (d, J=5.2 Hz, 1H), 3.93 (br. s, 1H), 3.74-3.71 (m, 1H), 3.48-3.45 (m, 1H), 2.5-2.4 (m, 1H), 2.33 (t, J=10.4 Hz, 1H), 1.89-1.82 (m, 2H), 1.59-1.56 (m, 1H), 1.40-1.32 (m, 1H). LCMS: 594 [M+H].

reactant | 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}benzaldehyde | 0.14 mmol, 0.81 g | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C=O)C=CC2 | C27H23ClN6O3S2
reactant | hydroxylamine hydrochloride | 0.0107 g | Cl.NO
reactant | acetic acid | 0.2 mL | C(C)(=O)O | C2H4O2
solvent | methanol | 2.0 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 3-{5-[2-({(3R)-1-[(4-chlorophenyl)sulfonyl]piperidin-3-yl}amino)pyrimidin-4-yl]imidazo[2,1-b][1,3]thiazol-6-yl}benzaldehyde oxime | 0.051 g, 61% | ClC1=CC=C(C=C1)S(=O)(=O)N1C[C@@H](CCC1)NC1=NC=CC(=N1)C1=C(N=C2SC=CN21)C=2C=C(C=NO)C=CC2 | C27H24ClN7O3S2
